US07981903B2
To pinacolone (200 mL, Aldrich) were added 3-(3-methyl-4-nitrophenyl)pyridine (5.3 g, 24.0 mmol) and propyliodide (17.0 g, 100.0 mmol, Fluka). The reaction was stirred at 102° C. for 12 h. Solids were collected and washed with MeOH (2×20 mL) to afford 3-(3-methyl-4-nitrophenyl)-1-propylpyridinium iodide (8.7 g, 90% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.92 (t, J=7.3 Hz, 3 H), 1.97-2.06 (m, 2 H), 2.62 (s, 3 H), 4.62 (t, J=7.3 Hz, 2 H), 7.98 (dd, J=8.5, 1.9 Hz, 1 H), 8.07 (d, J=1.1 Hz, 1H), 8.21 (d, J=8.6 Hz, 1 H), 8.29 (dd, J=8.1, 6.1 Hz, 1 H), 9.00 (d, J=8.4 Hz, 1 H), 9.12 (d, J=6.0 Hz, 1 H), 9.57 (s, 1 H); ESIMS (M+H)+=257.

reactant | 3-(3-methyl-4-nitrophenyl)pyridine | 24.0 mmol, 5.3 g | CC=1C=C(C=CC1[N+](=O)[O-])C=1C=NC=CC1 | C12H10N2O2
reactant | propyliodide | 100.0 mmol, 17.0 g | C(CC)I | C3H7I
solvent | pinacolone | 200 mL | CC(C(C)(C)C)=O | C6H12O
product | 3-(3-methyl-4-nitrophenyl)-1-propylpyridinium iodide | 8.7 g, 90% yield | [I-].CC=1C=C(C=CC1[N+](=O)[O-])C=1C=[N+](C=CC1)CCC | InChI=1S/C15H17N2O2.HI/c1-3-8-16-9-4-5-14(11-16)13-6-7-15(17(18)19)12(2)10-13;/h4-7,9-11H,3,8H2,1-2H3;1H/q+1;/p-1
